US06455550B1
Preparation of 1-(2-Bromoethyl)cyclopentane Carboxylic Acid Methyl Ester
To a solution of diisopropylamine (150 mmol, 21 mL) in THF (100 mL) was added dropwise a solution of n-butyl lithium (145 mmol, 58 mL 2.5M) in hexanes at −10° C. while maintaining the temperature below 0° C. After addition, the solution was stirred for 30 min at 0° C. To this, a solution of cyclopentane carboxylic acid methyl ester (100 mmol 13.1 g) in THF (20 mL) was added dropwise at −70° C. maintaining the internal temperature between −60 to −70° C. After addition, the reaction mixture was stirred for 1 h at −50 to −60° C. Then, a solution of 1,2-dibromoethane (90 mmol, 16.91 g) in THF (20 mL) was added dropwise and the light brown suspension was stirred for 1 h at −60 to −70° C. Then, it was allowed to warm to room temperature and was stirred overnight. The reaction mixture was poured into a saturated solution of ammonium chloride (200 mL) and the organic compound was extracted into ether (2×100 mL). The combined extracts were washed with a saturated solution of sodium chloride (150 mL) and dried over anhydrous magnesium sulfate. After filtration of the drying agent, the solution was concentrated under vacuum and the resulting residue was distilled at 95-105° C./2.5 mm Hg to obtain 11.5 g (49%) of a colorless oil.

reactant | diisopropylamine | 150 mmol, 21 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 145 mmol, 2.5M, 58 mL | C(CCC)[Li]
reactant | cyclopentane carboxylic acid methyl ester | 100 mmol, 13.1 g | COC(=O)C1CCCC1 | C7H12O2
reactant | 1,2-dibromoethane | 90 mmol, 16.91 g | BrCCBr | C2H4Br2
reactant | ammonium chloride | 200 mL | [Cl-].[NH4+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 1-(2-Bromoethyl)cyclopentane Carboxylic Acid Methyl Ester | 11.5 g, 49% | COC(=O)C1(CCCC1)CCBr | C9H15BrO2
